US05780472
1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(4-methoxybenzyl)piperazine
1-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonylpiperazine and 4-methoxybenzylchloride were reacted by the same way with the example 72 to obtain the titled compound.

reactant | 1-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonylpiperazine | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCNCC1 | C14H22N4O2
reactant | 4-methoxybenzylchloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(4-methoxybenzyl)piperazine | yield: 42% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)CC1=CC=C(C=C1)OC | C22H30N4O3
